US06559127B1
Synthesis of N-(Toluene-4sulfonyl)-N-methyl-L-phenylalanyl-D,L-phenylalanine
N-Methyl-L-phenylalanine (500 mg, 2.79 mmol) was dissolved in 1N NaOH (6 mL). Dioxane (9 mL)) was added, followed by p-toluenesulfonyl chloride (532 mg, 2.79 mmol) and the mixture was vigorously stirred for 1 hr. The volatiles were removed in vacuo and the residue was dissolved in water (30 mL) and washed with Et2O (2×30 mL) before making acidic with 1N HCl. The mixture was extracted with CHCl3 (3×30 mL) and the extracts were evaporated in vacuo to give N-(toluene-4-sulfonyl)-N-methylphenylalanine as a solid (424 mg, 45%). N-(Toluene-4-sulfonyl)-N-methylphenylalanine was coupled to L-phenylalanine ethyl ester using the procedure described in Method 3 (400 mg, 62%). The title compound was prepared via hydrolysis of the ethyl ester using NaOH in ethanol. Proton and carbon NMR analyis indicated a mixture of diastereomers.

reactant | N-(Toluene-4-sulfonyl)-N-methylphenylalanine | C1(=CC=C(C=C1)S(=O)(=O)N([C@@H](CC1=CC=CC=C1)C(=O)O)C)C | C17H19NO4S
reactant | L-phenylalanine ethyl ester | C(C)OC([C@@H](N)CC1=CC=CC=C1)=O | C11H15NO2
reactant | NaOH | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | N-(Toluene-4sulfonyl)-N-methyl-L-phenylalanyl-D,L-phenylalanine | C1(=CC=C(C=C1)S(=O)(=O)N([C@@H](CC1=CC=CC=C1)C(=O)NC(CC1=CC=CC=C1)C(=O)O)C)C | C26H28N2O5S
